US08203004B2
Magnesium (17 g) was stirred 10 min under nitrogen then THF (400 mL) was added. 1-Bromo-4 -methylbutane (5 mL) was added and the mixture stirred 5 min until the reaction initiated (exotherm) the reminder of the bromomethylbutane (100 g, 0.672 mol) was added keeping the temp below 35° C. (water bath). The mixture was stirred 1 hr at RT and a solution of 4-trifluoromethylbenzonitrile (100 g, 0.584 mol) in toluene (1 L) containing some CuBr was added dropwise keeping the temp 25° C. The solution was stirred 1 h and quenched carefully with 15% H2SO4 (exotherm). The organic layer was decanted, washed with brine, dried over (MgSO4) and concentrated in vacuo. The oil was purified by column chromatography on silica using isohexane as eluant to give 4-methyl-1-[4-(trifluoromethyl)phenyl]pentan-1-one (126 g) which solidified on standing. 1H NMR δ (ppm)(CDCl3): 8.06 (2H, d, J 8.1 Hz), 7.73 (2H, d, J 8.1 Hz), 2.99 (2H, app. t, J 7.4 Hz), 1.68-1.60 (3H, m), 0.96 (6H, d, J 6.3 Hz).

reactant | Magnesium | 17 g | [Mg] | Mg
reactant | THF | 400 mL | C1CCOC1 | C4H8O
reactant | 1-Bromo-4 -methylbutane | 5 mL | BrCCCCC | C5H11Br
reactant | bromomethylbutane | 0.672 mol, 100 g | BrCCCCC | C5H11Br
reactant | 4-trifluoromethylbenzonitrile | 0.584 mol, 100 g | FC(C1=CC=C(C#N)C=C1)(F)F | C8H4F3N
reactant | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-methyl-1-[4-(trifluoromethyl)phenyl]pentan-1-one | 126 g | CC(CCC(=O)C1=CC=C(C=C1)C(F)(F)F)C | C13H15F3O
